US06080875
e) Methyl (+)-(S)-α-amino-α-(2-chlorophenyl)acetate hydrochloride
3 g of methyl (+)-(S)-α-amino-α-(2-chlorophenyl)acetate (-)-(2,4-dinitrobenzoyl)phenylglycinate are introduced into 20 ml of a 1 M solution of sodium carbonate and the mixture is extracted twice with 10 ml of ethyl acetate.

reactant | methyl (+)-(S)-α-amino-α-(2-chlorophenyl)acetate (-)-(2,4-dinitrobenzoyl)phenylglycinate | 3 g | [N+](=O)([O-])C1=C(C(=O)N(CC(=O)O)C2=CC=CC=C2)C=CC(=C1)[N+](=O)[O-].N[C@H](C(=O)OC)C1=C(C=CC=C1)Cl
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
product | Methyl (+)-(S)-α-amino-α-(2-chlorophenyl)acetate hydrochloride | Cl.N[C@H](C(=O)OC)C1=C(C=CC=C1)Cl | InChI=1S/C9H10ClNO2.ClH/c1-13-9(12)8(11)6-4-2-3-5-7(6)10;/h2-5,8H,11H2,1H3;1H/t8-;/m0./s1
